US05885986
1.14 g (0.0031 mol) of 8-fluoro-5-methyl-3-(5-propylaminomethyl-oxazol-2-yl)-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one in 50 ml of ethanol were treated with 0.84 ml (0.0031 mol) of 3.7N ethanolic hydrochloric acid. After stirring at 0° for 1/2 hr. the white suspension was suction filtered. There was obtained 0.93 g (74%) of 8-fluoro-5-methyl-3-(5-propylaminomethyl-oxazol-2-yl)-5,6-dihydro-4H-imidazo-[1,5-a][1,4]benzodiazepin-6-one hydrochloride (1:1) as white crystals; m.p. 178°-181° (dec.).

reactant | 8-fluoro-5-methyl-3-(5-propylaminomethyl-oxazol-2-yl)-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one | 0.0031 mol, 1.14 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3C=3OC(=CN3)CNCCC)C)=O)C1 | C19H20FN5O2
reactant | hydrochloric acid | 0.0031 mol, 3.7N, 0.84 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 8-fluoro-5-methyl-3-(5-propylaminomethyl-oxazol-2-yl)-5,6-dihydro-4H-imidazo-[1,5-a][1,4]benzodiazepin-6-one hydrochloride | 0.93 g, 74% | Cl.FC=1C=CC2=C(C(N(CC=3N2C=NC3C=3OC(=CN3)CNCCC)C)=O)C1 | InChI=1S/C19H20FN5O2.ClH/c1-3-6-21-8-13-9-22-18(27-13)17-16-10-24(2)19(26)14-7-12(20)4-5-15(14)25(16)11-23-17;/h4-5,7,9,11,21H,3,6,8,10H2,1-2H3;1H
